US05382672
B 2'[2-(1,1-dimethylethyl)-2H-tetrazol -5-yl][1,1'-biphenyl]-4-carboxaldehyde [sic]
9.2 g (21.3 mmol) of bis[2-[2-(1,1-dimethylethyl) -2H-tetrazol-5-yl]phenyl]borinic acid, 5 g (35.5 mmol) of 4-chlorobenzaldehyde, 2.05 g of tetrakis(triphenylphosphine)palladium, 36 ml of a 2 M [sic]sodium carbonate solution and 150 ml of toluene are introduced into a 500 ml, round-bottom flask equipped with a condenser. The reaction mixture is maintained at reflux for 6 hours and is then poured into 50 ml of a saturated ammonium chloride solution. The mixture is extracted with ethyl acetate, the organic phase is collected and is washed successively with 100 ml of water and 100 ml of a saturated sodium chloride solution. The organic phase is dried over magnesium sulfate and is evaporated under vacuum. The residue obtained is purified by chromatography on a silica gel column. 7.06 g of product are obtained. Melting point=71°-73° C. Yield=65%

reactant | bis[2-[2-(1,1-dimethylethyl) -2H-tetrazol-5-yl]phenyl]borinic acid | 21.3 mmol, 9.2 g | CC(C)(C)N1N=C(N=N1)C1=C(C=CC=C1)B(O)C1=C(C=CC=C1)C=1N=NN(N1)C(C)(C)C | C22H27BN8O
reactant | 4-chlorobenzaldehyde | 35.5 mmol, 5 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
catalyst | tetrakis(triphenylphosphine)palladium | 2.05 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2'[2-(1,1-dimethylethyl)-2H-tetrazol -5-yl][1,1'-biphenyl]-4-carboxaldehyde | 7.06 g, Yield=65% | CC(C)(C)N1N=C(N=N1)C1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C18H18N4O
